US08895745B2
D3b: Preparation of 1-(2-Amino-ethyl)-3-{3-[6-(4-fluoro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-yl]-phenyl}-urea
TFA (2 ml) was added slowly to a stirred suspension of [2-(3-{3-[6-(4-Fluoro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-yl]phenyl}ureido)-ethyl]carbamic acid tert-butyl ester (390 mg, 0.80 mmol) in CH2Cl2 (4 ml) at RT. After 1 hour the volatiles were removed in vacuo. The residue was taken up in MeOH and loaded on a SCX cartridge (20 g). Eluting with 2M NH3. MeOH and removal of the solvent in vacuo gave the title compound (155 mg) as a yellow solid.

reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | [2-(3-{3-[6-(4-Fluoro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-yl]phenyl}ureido)-ethyl]carbamic acid tert-butyl ester | 0.80 mmol, 390 mg | C(C)(C)(C)OC(NCCNC(=O)NC1=CC(=CC=C1)C=1C=NN2C1N=CC(=C2)C2=CC=C(C=C2)F)=O | C26H27FN6O3
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-Amino-ethyl)-3-{3-[6-(4-fluoro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-yl]-phenyl}-urea | 155 mg | NCCNC(=O)NC1=CC(=CC=C1)C=1C=NN2C1N=CC(=C2)C2=CC=C(C=C2)F | C21H19FN6O
